US09382243B2
N-(1-(4-bromophenyl)-2,2,2-trifluoroethyl)cyclopropanamine
Potassium hydrogen fluoride (0.697 g, 8.92 mmol) and N-(4-bromobenzylidene)-cyclopropanamine (2 g, 8.92 mmol) were dissolved in acetonitrile (17.85 ml) and cooled to 0° C. TFA (1.031 ml, 13.39 mmol) was added and the reaction was stirred for 5 min. Then (trifluoromethyl)trimethylsilane (2.64 ml, 17.85 mmol) was added and the reaction was allowed to stir at rt overnight. Saturated Na2CO3 was added to the reaction mixture and the reaction stirred 5 min, then diluted with water and EtOAc/Hexane (1:1). The aqueous phase was extracted with EtOAc (×2), and the combined extracts were washed with brine, dried over Na2SO4, filtered and concentrated. The resulting residue was purified by column chromatography on a Biotage™ 50 g column by eluting with 2% to 25% EtOAc:Hexane to give product. A second purification was performed on this product on a Biotage™ 100 g column by eluting with 2% to 25% EtOAc to provide the desired product. LC-MS: calculated for C11H11BrF3N 293.00 observed m/e: 294.15 (M+H)+ (Rt 1.23/2 min).

reactant | Potassium hydrogen fluoride | 8.92 mmol, 0.697 g | F.[K]
reactant | N-(4-bromobenzylidene)-cyclopropanamine | 8.92 mmol, 2 g | BrC1=CC=C(C=NC2CC2)C=C1 | C10H10BrN
reactant | TFA | 13.39 mmol, 1.031 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (trifluoromethyl)trimethylsilane | 17.85 mmol, 2.64 ml | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 17.85 ml | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | EtOAc Hexane | CCOC(=O)C.CCCCCC
product | N-(1-(4-bromophenyl)-2,2,2-trifluoroethyl)cyclopropanamine | BrC1=CC=C(C=C1)C(C(F)(F)F)NC1CC1 | C11H11BrF3N
